US03978044
Using the procedure of example 1 and starting from 9.2 g of 4-cyclohexyl 1-morpholyl cyclohex-1 ene and from 5 g phenyl isothiocyanate 7.8 g of 4-cyclohexyl 2-phenylthiocarbamoyl 1-morpholyl cyclohex-1 ene are obtained, melting at 143°. Acid hydrolysis of 7 g of 4-cyclohexyl 2-phenylthiocarbamoyl 1-morpholyl cyclohex- 1 ene gives 4.5 g of 4-cyclohexyl 2-phenylthiocarbamoyl cyclohexanone which melts at 150° .

reactant | 4-cyclohexyl 1-morpholyl cyclohex-1 ene | 9.2 g | C1(CCCCC1)C1CC=C(CC1)N1CCOCC1 | C16H27NO
reactant | phenyl isothiocyanate | 5 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | 4-cyclohexyl 2-phenylthiocarbamoyl 1-morpholyl cyclohex-1 ene | C1(CCCCC1)C1CC(=C(CC1)N1CCOCC1)C(NC1=CC=CC=C1)=S | C23H32N2OS
reactant | 4-cyclohexyl 2-phenylthiocarbamoyl 1-morpholyl cyclohex- 1 ene | 7 g | C1(CCCCC1)C1CC(=C(CC1)N1CCOCC1)C(NC1=CC=CC=C1)=S | C23H32N2OS
product | 4-cyclohexyl 2-phenylthiocarbamoyl cyclohexanone | 4.5 g | C1(CCCCC1)C1CC(C(CC1)=O)C(NC1=CC=CC=C1)=S | C19H25NOS
